US04916135
N-(1H-Indol-1-yl)-4-quinolinamine maleate
A solution prepared from 4-chloro-quinoline (5 g), 1H-indol-1-amine (5 g), 100 ml isopropanol and 1 ml saturated ether/HCl was stirred for three hours at reflux, and thereafter cooled, stirred with water, basified with sodium carbonate and extracted with dichloromethane. The organic extract was washed successively with water and saturated sodium chloride solution, dried (anhy. MgSO4), filtered and concentrated to a solid. This was purified by flash chromatography (silica, 10% ethyl acetate in dichloromethane) to give 6.5 g solid, m.p. 128° C. This was converted to the maleate salt in methanol to give 7.4 g of crystals, m.p. 207°-208° C. dec. Three grams were recrystallized from methanol/ether to give 2.6 g crystals, m.p. 209°-210° dec.

reactant | 4-chloro-quinoline | 5 g | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | 1H-indol-1-amine | 5 g | N1(C=CC2=CC=CC=C12)N | C8H8N2
reactant | ether HCl | 1 ml | CCOCC.Cl
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | N-(1H-Indol-1-yl)-4-quinolinamine maleate | 6.5 g | C(\C=C/C(=O)O)(=O)O.N1(C=CC2=CC=CC=C12)NC1=CC=NC2=CC=CC=C12 | InChI=1S/C17H13N3.C4H4O4/c1-4-8-17-13(5-1)10-12-20(17)19-16-9-11-18-15-7-3-2-6-14(15)16;5-3(6)1-2-4(7)8/h1-12H,(H,18,19);1-2H,(H,5,6)(H,7,8)/b;2-1-
